US03932432
4-Chloro-3-trifluoromethyl aniline was converted to the diazonium salt with sodium nitrite and sulfuric acid and this was reacted with acrylic acid (Meerwein reaction) to give 4-chloro-3-trifluoromethyl cinnamic acid. This acid was hydrogenated, reduced with lithium aluminum hydride to the alcohol and reacted with phosphorus tribromide to give 3(4-chloro-3-trifluoromethylphenyl)propyl bromide.

reactant | 4-Chloro-3-trifluoromethyl aniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 4-chloro-3-trifluoromethyl cinnamic acid | ClC1=C(C=C(C=CC(=O)O)C=C1)C(F)(F)F | C10H6ClF3O2
